US04670584
To α-fluorocinnamic acid (5.48 g, 33 mM), thionyl chloride (40 ml) was added, and the thus obtained mixture was stirred at 80° C. under refluxing for 2 hours. After cooling it to a room temperature, the unreacted thionyl chloride was distilled off under reduced pressure to give a syrup-like α-fluorocinnamoyl chloride.

reactant | α-fluorocinnamic acid | 33 mM, 5.48 g | FC(C(=O)O)=CC1=CC=CC=C1 | C9H7FO2
reactant | thionyl chloride | 40 ml | S(=O)(Cl)Cl | Cl2OS
product | α-fluorocinnamoyl chloride | FC(C(=O)Cl)=CC1=CC=CC=C1 | C9H6ClFO
